US05049572
A suspension of 9.2g (0.061 mole) of p-aminophenylacetic acid in 150 ml of 1,2-dimethoxyethane was added to a suspension of 8.0g (0.0298 mole) of 3,5-di-t-butyl-4-hydroxybenzoyl chloride in 100 ml of 1,2-dimethoxyethane, and the resulting mixture was stirred at room temperature for 12 hours. The reaction mixture was then filtered. The filtrate was thereafter diluted with water and chilled. The resulting precipitate was collected and recrystallized from a mixture of ethanol and water to give 1.32g of yellow crystalline 4-(3,5-di-t-butyl-4-hydroxybenzamido)phenylacetic acid, m.p. 253°-254° C. Analysis: Calculated for C23H29NO4 : %C, 72.0; %H, 7.6; %N, 3.6; Found: %C, 72.0; %H, 7.7; %N, 3.4.

reactant | p-aminophenylacetic acid | 0.061 mole, 9.2g | NC1=CC=C(C=C1)CC(=O)O | C8H9NO2
reactant | 3,5-di-t-butyl-4-hydroxybenzoyl chloride | 0.0298 mole, 8.0g | C(C)(C)(C)C=1C=C(C(=O)Cl)C=C(C1O)C(C)(C)C | C15H21ClO2
solvent | 1,2-dimethoxyethane | 150 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 100 ml | COCCOC | C4H10O2
product | 4-(3,5-di-t-butyl-4-hydroxybenzamido)phenylacetic acid | 1.32g | C(C)(C)(C)C=1C=C(C(=O)NC2=CC=C(C=C2)CC(=O)O)C=C(C1O)C(C)(C)C | C23H29NO4
